### PR TITLE
[Merged by Bors] - feat(Analysis/CStarAlgebra): set of star projections equals the extreme points of the nonnegative closed unit ball

### PR DESCRIPTION
**Pull request by themathqueen**
An element in a non-unital C⋆-algebra is a projection iff it is an extreme point of the nonnegative closed unit ball. This is from 1.6.2 in Sakai's C⋆-algebras and W⋆-algebras (the proof is different though).

Co-authored-by: Jon Bannon <59937998+JonBannon@users.noreply.github.com>

---

- [x] depends on: #35997

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/CStarAlgebra/Extreme.lean [hunk 1]
```diff
@@ -0,0 +1,60 @@
...
+
+variable {A : Type*} [NonUnitalCStarAlgebra A]
+
+set_option backward.isDefEq.respectTransparency false in
+/-- The star projections in a non-unital C⋆-algebra are exactly the extreme points of
+the nonnegative closed unit ball. -/
+theorem isStarProjection_iff_mem_extremePoints_nonneg_and_mem_closedUnitBall
+    [PartialOrder A] [StarOrderedRing A] {e : A} :
+    IsStarProjection e ↔ e ∈ extremePoints ℝ {x : A | 0 ≤ x ∧ x ∈ closedBall 0 1} := by
+  simp only [mem_closedBall, dist_zero_right, mem_extremePoints_iff_left, mem_setOf_eq, and_imp]
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/Extreme.lean]: This is a long proof. Please add comments outlining the argument. Also, specify where it came from and add appropriate references.

Comment (themathqueen) [reply Mathlib/Analysis/CStarAlgebra/Extreme.lean]: I could reference Sakai, but I'm pretty sure we didn't follow his proof for this one. I've added a citation though at the top of the file.

File: Mathlib/Analysis/CStarAlgebra/Extreme.lean [hunk 2]
```diff
@@ -0,0 +1,82 @@
...
+public section
+
+open Set Metric CFC CStarAlgebra Unitization
+
+variable {A : Type*} [NonUnitalCStarAlgebra A]
+
+set_option backward.isDefEq.respectTransparency false in
+/-- The star projections in a non-unital C⋆-algebra are exactly the extreme points of
+the nonnegative closed unit ball. -/
+theorem isStarProjection_iff_mem_extremePoints_nonneg_and_mem_closedUnitBall
```
Comment (themathqueen) [inline Mathlib/Analysis/CStarAlgebra/Extreme.lean]:
```suggestion
theorem isStarProjection_iff_mem_extremePoints_nonneg_and_mem_unitClosedBall
```

File: Mathlib/Analysis/CStarAlgebra/Extreme.lean [hunk 3]
```diff
@@ -0,0 +1,82 @@
...
+
+variable {A : Type*} [NonUnitalCStarAlgebra A]
+
+set_option backward.isDefEq.respectTransparency false in
+/-- The star projections in a non-unital C⋆-algebra are exactly the extreme points of
+the nonnegative closed unit ball. -/
+theorem isStarProjection_iff_mem_extremePoints_nonneg_and_mem_unitClosedBall
+    [PartialOrder A] [StarOrderedRing A] {e : A} :
+    IsStarProjection e ↔ e ∈ extremePoints ℝ {x : A | 0 ≤ x ∧ x ∈ closedBall 0 1} := by
+  simp only [mem_closedBall, dist_zero_right, mem_extremePoints_iff_left, mem_setOf_eq, and_imp]
```
Comment (themathqueen) [inline Mathlib/Analysis/CStarAlgebra/Extreme.lean]: Or since we have [CStarAlgebra.span_nonneg_inter_unitClosedBall](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/CStarAlgebra/SpecialFunctions/PosPart.html#CStarAlgebra.span_nonneg_inter_unitClosedBall)

```suggestion
theorem isStarProjection_iff_mem_extremePoints_nonneg_inter_unitClosedBall
    [PartialOrder A] [StarOrderedRing A] {e : A} :
    IsStarProjection e ↔ e ∈ extremePoints ℝ ({x : A | 0 ≤ x} ∩ closedBall 0 1) := by
  simp only [mem_closedBall_zero_iff, mem_extremePoints_iff_left, mem_inter_iff,
    mem_setOf_eq, and_imp]
```

File: Mathlib/Analysis/CStarAlgebra/Extreme.lean [hunk 4]
```diff
@@ -0,0 +1,83 @@
...
+      exact he.inr.isSelfAdjoint.conjugate_nonneg (sub_nonneg_of_le <|
+        (norm_le_one_iff_of_nonneg (c : A⁺¹) (by simpa)).mp (by simpa [norm_inr]))
+    have := le_add_iff_nonneg_right (t • (e * (1 - a : A⁺¹) * e)) |>.mpr (H h0s hb hb1)
+    have : e * ((1 - a : A⁺¹) * e) = 0 := by rw [← smul_eq_zero_iff_right h0t.ne']; grind
+    have := he.conjugate_of_nonneg_of_le (a := t • a) (by positivity)
+      (by simpa [hlin] using le_add_of_nonneg_right (a := t • a) (by positivity : 0 ≤ s • b))
+    rw [mul_smul_comm, smul_mul_assoc] at this
+    have h : e * (e - a * e) = 0 := by rw [← (inr_injective (R := ℂ)).eq_iff]; simpa [← one_sub_mul]
+    rwa [mul_sub, ← mul_assoc, he.isIdempotentElem.eq, h0t.ne'.isUnit.smul_left_cancel.mp this,
+      sub_eq_zero, eq_comm] at h
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/Extreme.lean]: I realize what I'm suggesting here is actually *longer* than what you have written, but I feel it is a bit more readable than the sequence of `have` statements which continually update what `this` refers to.

Note that it also revealed some holes in our API.

```suggestion
    have ⟨ha01, hb01⟩ : (a : A⁺¹) ∈ Icc 0 1 ∧ (b : A⁺¹) ∈ Icc 0 1 := by
      grind [inr_mem_Icc_iff_norm_le]
    suffices t • (e * (1 - a : A⁺¹) * e) = 0 by
      rw [← h0t.ne'.isUnit.smul_left_cancel,
        ← he.conjugate_of_nonneg_of_le (smul_nonneg h0t.le ha) ?hae]
      case hae => simpa [hlin] using le_add_of_nonneg_right (a := t • a) (by positivity : 0 ≤ s • b)
      apply inr_injective (R := ℂ) <| Eq.symm ?_
      simpa only [mul_one_sub_mul, he.inr.isIdempotentElem.eq, smul_sub, sub_eq_zero,
        smul_mul_assoc, mul_smul_comm, smul_sub, inr_mul, inr_smul]
    apply le_antisymm ?_ <| smul_nonneg h0t.le <| he.inr.isSelfAdjoint.conjugate_nonneg <| by
      simpa using ha01.2
    calc
      t • (e * (1 - a : A⁺¹) * e)
      _ ≤ t • (e * (1 - a : A⁺¹) * e) + s • (e * (1 - b) * e) := by
        refine le_add_of_nonneg_right <| smul_nonneg h0s.le ?_
        simpa [mul_one_sub_mul] using he.inr.isSelfAdjoint.conjugate_le_conjugate <|
          norm_le_one_iff_of_nonneg (b : A⁺¹) (by simpa) |>.mp (by simpa [norm_inr])
      _ = e - e * (t • a + s • b) * e := by
        simp only [mul_one_sub_mul, he.inr.isIdempotentElem.eq, smul_sub, mul_add,
          Algebra.mul_smul_comm, add_mul, Algebra.smul_mul_assoc]
        match_scalars <;> grind
      _ = 0 := by simp [← inr_smul, ← inr_add, hlin, ← inr_mul, he.isIdempotentElem.eq]
```
The missing API I discovered is:
```lean
-- I realize this is just three `rw`s, but it comes up *all the time* when working
-- with the unitization in C⋆-algebras, so it would be nice to have.
lemma mul_one_sub_mul {R : Type*} [Ring R] (a b c : R) : a * (1 - b) * c = a * c - a * b * c := by
  noncomm_ring

-- I didn't actually end up needing this one, but we should have it nonetheless.
theorem nonneg_of_smul_nonneg {α β : Type*} {a : α} {b : β} [Zero β] [SMulZeroClass α β]
    [Preorder α] [Preorder β] [Zero α] [PosSMulReflectLE α β] (ha : 0 < a) (h : 0 ≤ a • b) :
    0 ≤ b :=
  le_of_smul_le_smul_of_pos_left (by simpa) ha

-- I didn't actually end up needing this one, but we should have it nonetheless.
theorem nonpos_of_smul_nonpos {α β : Type*} {a : α} {b : β} [Zero β] [SMulZeroClass α β]
    [Preorder α] [Preorder β] [Zero α] [PosSMulReflectLE α β] (ha : 0 < a) (h : a • b ≤ 0) :
    b ≤ 0 :=
  le_of_smul_le_smul_of_pos_left (by simpa) ha

-- we're missing all these `norm_cast` attributes.
attribute [norm_cast] inr_smul inr_zero inr_add inr_neg inr_sub inl_mul_inr inr_mul_inl inr_star
```

**Review by j-loreaux — COMMENTED** [review]
I'm basically happy with this.

File: Mathlib/Analysis/CStarAlgebra/Extreme.lean (hunk 4 above)
Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/Extreme.lean]: I'll open PRs for the latter three things above, but I'll leave `mul_one_sub_mul` for this PR (because I think the motivation of this PR should help justify its utility).

Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/Extreme.lean]: #37708 and #37709

File: Mathlib/Analysis/CStarAlgebra/Extreme.lean [hunk 5]
```diff
@@ -0,0 +1,86 @@
...
+public section
+
+open Set Metric CFC CStarAlgebra Unitization
+
+variable {A : Type*} [NonUnitalCStarAlgebra A]
+
+set_option backward.isDefEq.respectTransparency false in
+/-- The star projections in a non-unital C⋆-algebra are exactly the extreme points of
+the nonnegative closed unit ball. -/
+theorem isStarProjection_iff_mem_extremePoints_nonneg_inter_unitClosedBall
```
Comment (themathqueen) [inline Mathlib/Analysis/CStarAlgebra/Extreme.lean]:
```suggestion
theorem isStarProjection_iff_mem_extremePoints_setOf_nonneg_inter_unitClosedBall
```

Comment (mcdoll) [reply Mathlib/Analysis/CStarAlgebra/Extreme.lean]: I think the suggestion is better

**Comment by mcdoll** [comment]
Thanks!
I don't see anything to improve, David doesn't, and Jireh is happy with it, so let's get it on the queue!
maintainer merge
